US05013729
(S)-2-Bromosuccinic Acid
To a solution of 1,000 g (9.72 mol) sodium bromide in 2.1 liters 6N sulfuric acid under nitrogen was added 323.1 g (2.43 mol) L-aspartic acid and the resulting solution cooled to 5° C. To this was added in portions over 1.5 hours, 201.4 g (2.92 mol) sodium nitrite while keeping the temperature below 10° C. After the addition was completed, one liter of distilled water was added, followed by 73.07 g (1.22 mol) urea. The resulting mixture was poured into a separatory funnel and extracted with 2.5 liters ethyl ether. To the aqueous layer was added 500 g sodium chloride, and the mixture extracted three times with ether (3×1.25 liters). The combined ether layers were washed with brine, dried (Na2SO4) and the solvent evaporated in vacuo to yield 303 g (63%) of the desired compound; [alpha]D =-73.5° (c=0.6 in ethyl acetate); m.p. 185° C.

reactant | sodium bromide | 9.72 mol, 1,000 g | [Br-].[Na+]
reactant | L-aspartic acid | 2.43 mol, 323.1 g | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | sodium nitrite | 2.92 mol, 201.4 g | N(=O)[O-].[Na+]
reactant | urea | 1.22 mol, 73.07 g | NC(=O)N | CH4N2O
solvent | sulfuric acid | 6N, 2.1 liters | S(O)(O)(=O)=O | H2O4S
solvent | water | one liter | O | H2O
product | (S)-2-Bromosuccinic Acid | 303 g, 63% | Br[C@H](C(=O)O)CC(=O)O | C4H5BrO4
